US09371333B2
2-Amino-4-(4-benzyloxy-3-bromo-5-methoxy-phenyl)-4H-benzo[h]chromene-3-carbonitrile (2)
1-Naphthol (2.16 g, 15 mmol), 4-benzyloxy-3-bromo-5-methoxy-benzaldehyde (4 g, 12.5 mmol) and malononitrile (825 mg, 12.5 mmol) were taken in 30 ml ethanol at room temperature, charged with piperidine (200 μl) and then stirred at 80° C. under LC-MS control till the reaction was complete. The reaction mixture was then cooled down to room temperature, diluted with 60 ml water and stirred for about 2 h at room temperature. Thus formed precipitates were collected by filtration, washed with 1:1 mixture of ethanol/water and dried under high vacuum yielding pure solids of the title compound (6.0 g, 11.7 mmol, 93.5%).

reactant | 1-Naphthol | 15 mmol, 2.16 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 4-benzyloxy-3-bromo-5-methoxy-benzaldehyde | 12.5 mmol, 4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1OC)Br | C15H13BrO3
reactant | malononitrile | 12.5 mmol, 825 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 200 μl | N1CCCCC1 | C5H11N
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 2-Amino-4-(4-benzyloxy-3-bromo-5-methoxy-phenyl)-4H-benzo[h]chromene-3-carbonitrile | 11.7 mmol, 6.0 g, 93.5% | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OCC1=CC=CC=C1)Br)C=CC=C3 | C28H21BrN2O3
